Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / Zantac / Penicillins / levofloxacin
 
Attending: ___
 
Chief Complaint:
cough, fatigue, back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ F with PMHx DM, HTN, HLD, asthma, depression 
& anxiety with ED evaluation on ___ for SI (discharged to 
follow-up with Arbour), recent admission ___ for SBO 
managed conservatively (also treated for acute sinusitis; noted 
to have new anterior ST depressions with L axis compared to EKG 
1mth prior but troponins were negative), now admitted for PNA. 

She returns to the ED today with several days of malaise, cough 
and dyspnea. She also had myalgias of her back. She had some CP 
with coughing, none with exertion. 

In the ED, initial VS were: 98.6 101 113/61 18 96% Nasal 
Cannula.
   
Exam notable for: scattered wheeze, rhonchi most pronounced 
right base, there is suprapubic tenderness

Labs showed: No leukocytosis or bandemia. Hct 33. BUN/Cr ___. 
Mg 1.4. P 1.6. AP 116 (TBili 1.0). proBNP 1014. Lactate 1.7. UA 
negative for infection.
  
Imaging showed: CXR: Right lower lobe focal opacity which could 
be pneumonia in the proper clinical setting. Repeat after 
treatment suggested to document resolution.
  
EKG with NSR, nl axis, QTc 481msec, TWI V1-V3.

Received:
___ 16:38 PO Acetaminophen 1000 mg 
___ 16:38 IV Levofloxacin 750 mg 
*Suffered localized skin rash at IV site, was given Benadryl and 
switched to CTX.
___ 16:58 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 16:58 IH Ipratropium Bromide Neb 1 NEB 
___ 16:59 IVF 1000 mL NS 1000 mL   
___ 17:45 IV Azithromycin 500 mg 
___ 17:45 IV DiphenhydrAMINE 50 mg 
  
Transfer VS were: 98.6 86 103/61 18 96% RA. 
  
On arrival to the floor, patient reports that she is feeling 
so-so. Last night she developed pain in her back and waist. She 
had to go to bed with this. Also reports chronic cough that has 
worsened over the last several days. Says that she was coughing 
so much that she was unable to get out of bed. Regarding her 
back pain, she has chronic back pain but says this pain was 
worse. Notes intermittent radiation to her legs. Denies 
urinary/fecal incontinence, new focal weakness, 
numbness/tingling or fevers/chills. Denies fevers, chills, n/v, 
diarrhea, constipation, chest pain, SOB, dysuria. Also reports 
some chest pain at home that she has a hard time describing. Is 
non radiating. Not associated with SOB, diaphoresis, vomiting, 
but she did have some nausea. Denies recent sick contacts. Has 
not had recent falls or trauma but says she has fallen at home 
before, but has never lost consciousness. Has felt dizzy before 
and felt dizzy earlier today. 

 
Past Medical History:
Past Medical History:
- IDDM
- HTN
- HLD
- asthma
- migraines
- chronic back pain
- depression & anxiety, recent ED evaluation on ___ for SI

Past Surgical History:
___: L salpingo-oophorectomy complicated by sigmoid
perforation
___: Sigmoid  resection,  creation  ___ pouch,
takedown of splenic flexure and sigmoid colostomy.
___: I&D, debridement of abdominal abscess
___: Left colectomy/colostomy closure, takedown splenic
flexure, diverting ileostomy
___: Ileostomy take-down
___: Laparotomy, excision of scar and extensive
adhesiolysis.
___: Ventral hernia repair w/ vicryl mesh
___: Incisional hernia repair w/ mesh
___: Medial L knee meniscectomy
___: R knee meniscectomy
___: R total knee replacement

 
Social History:
___
Family History:
Family history is notable for cardiac disease of her sisters. 

 
Physical Exam:
ADMISSION EXAM:
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: distant, RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Diffuse rhonci heard along the R middle base 
ABDOMEN: obese, nondistended, +BS, nontender in all quadrants, 
no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact

DISCHARGE EXAM:
VS - 97.9 72 113/61 17 94 r/a
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: distant, RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Diffuse rhonci heard b/l, with audible wheezing
ABDOMEN: obese, nondistended, +BS, nontender in all quadrants, 
no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally 

 
Pertinent Results:
LABS UPON ADMISSION:
___ 04:30PM BLOOD WBC-9.8 RBC-3.64* Hgb-10.2* Hct-33.0* 
MCV-91 MCH-28.0 MCHC-30.9* RDW-16.0* RDWSD-52.9* Plt Ct-74*
___ 04:30PM BLOOD Glucose-137* UreaN-28* Creat-1.4* Na-137 
K-4.0 Cl-103 HCO3-23 AnGap-15
___ 04:30PM BLOOD ALT-40 AST-33 AlkPhos-116* TotBili-1.0
___ 04:30PM BLOOD Albumin-3.9 Calcium-8.7 Phos-1.6* Mg-1.4*
___ 04:30PM BLOOD proBNP-1014*

LABS UPON DISCHARGE:
___ 12:24AM BLOOD cTropnT-<0.01
___ 06:20AM BLOOD cTropnT-<0.01

OTHER LABS:
___ 05:40AM BLOOD WBC-5.3 RBC-3.58* Hgb-10.1* Hct-32.0* 
MCV-89 MCH-28.2 MCHC-31.6* RDW-15.0 RDWSD-48.9* Plt Ct-97*
___ 05:40AM BLOOD Glucose-211* UreaN-22* Creat-1.1 Na-134 
K-5.1 Cl-100 HCO3-22 AnGap-17
___ 05:40AM BLOOD Calcium-9.2 Phos-2.4* Mg-2.4
___ 04:33PM BLOOD Lactate-1.7
___ 04:30PM BLOOD ALT-40 AST-33 AlkPhos-116* TotBili-1.0
___ 04:30PM BLOOD Lipase-20

IMAGING:
IMPRESSION:  
CXR ___  
Right lower lobe focal opacity which could be pneumonia in the 
proper clinical setting.  Repeat after treatment suggested to 
document resolution. 

TTE ___
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
Doppler parameters are indeterminate for left ventricular 
diastolic function. Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are structurally normal. There is no mitral valve 
prolapse. Trivial mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is an 
anterior space which most likely represents a prominent fat pad. 

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with preserved regional/global systolic 
function. 

 
Brief Hospital Course:
___ yo ___ F with PMHx DM, HTN, HLD, asthma, 
depression & anxiety with ED evaluation on ___ for SI 
(discharged to follow-up with Arbour), recent admission 
___ for SBO managed conservatively (also treated for acute 
sinusitis; noted to have new anterior ST depressions with L axis 
compared to EKG 1mth prior but troponins were negative), 
admitted with fatigue, back pain and cough found to have CAP.

# RLL PNA:
CURB 65 score 1. S/p treatment with levofloxacin and 
azithromycin in ED. Developed rash with levo. CXR with RLL 
opacity. Given asthma and persistent cough with wheezing, likely 
experiencing exacberation of asthma as well. Pt was transitioned 
to cefpodoxime 400 mg BID to complete five day course (end date 
___ and prednisone 60 mg daily for five days (end date ___.

# Chest Pain:
# Anterior TWI:
Pt reported CP prior to hospitalization. Pt also endorsed DOE 
and relief with rest. Pt also with new EKG changes with anterior 
ST depression and TWI. Troponins negative x2 during 
hospitalization. Echo w/o focal wall motion abnormality and 
preserved EF.  A dobutamine pharmacologic stress test was 
ordered and it was attempted two times, but the nuclear lab 
would not perform the test given the patient's concurrent lung 
disease. We requested cardiology follow up appointment, which 
was pending upon discharge. 

# Asthma exacerbation:
Currently wheezing on exam and report of worsening DOE at home 
c/w asthma exacerbation. Pt was continued on at home meds- 
Montelukast 10 mg PO DAILY, Fluticasone Propionate 110mcg 2 PUFF 
IH BID, Ipratropium-Albuterol Neb 1 NEB NEB Q6H, cetirizine. 
Prednisone 60 mg daily was initiated.

#Chronic pain and back pain
No warning signs of back pain given chronicity, lack of fevers, 
change in weight, and new neurologic symptoms. Continued 
gabapentin at reduced renal dose

# Anemia: 
Baseline Hb ___. Fe level 13. TF sat 4%. C/w both ___ and ACD. 
Recommend IV iron therapy as an outpatient given concurrent 
infection

# Psych:
Patient continued on at home medications.

# Diabetes Mellitus:
Initiated long acting insulin at reduced dose and ISS while in 
the hospital.

**Transitional issues**
-Patient's medication list in OMR was slightly different than 
the medications that the pt reported taking. We did not change 
any of her current medications, just added the antibiotic and 
steroid.
-Patient was instructed to continue taking all of her 
medications and to complete cefpoxodime and prednisone
-New medications added:
--Cefpodoxime 400 mg PO BID, to complete 7 day course ___ to 
___
--Prednisone 60 mg daily, to complete 5 day course ___ to ___
-Please ensure cardiology follow up and pharm stress test upon 
discharge given changes in EKG and reported chest pain and DOE.
-Patient has evidence of iron deficiency anemia and IV iron 
should be considered for treatment

>30 minutes spent in coordination of care and counseling on day 
of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO TID 
2. Montelukast 10 mg PO DAILY 
3. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
4. Senna 8.6 mg PO BID:PRN constipation  
5. Omeprazole 20 mg PO BID 
6. Furosemide 20 mg PO DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
8. FLUoxetine 40 mg PO DAILY 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. ClonazePAM 1 mg PO QID:PRN anxiety  
11. Cetirizine 10 mg PO DAILY 
12. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN migraine  
13. Docusate Sodium 100 mg PO BID:PRN constipation  
14. Amitriptyline 100 mg PO QHS 
15. Simvastatin 40 mg PO QPM 
16. QUEtiapine Fumarate 200 mg PO QHS 
17. Lisinopril 5 mg PO DAILY 
18. Nortriptyline 10 mg PO QHS 
19. Glargine 22 Units Breakfast
Humalog 10 Units Breakfast
Humalog 14 Units Lunch
Humalog 14 Units Dinner
20. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Medications:
1. Amitriptyline 100 mg PO QHS 
2. Cetirizine 10 mg PO DAILY 
3. ClonazePAM 1 mg PO QID:PRN anxiety  
4. Docusate Sodium 100 mg PO BID:PRN constipation  
5. FLUoxetine 40 mg PO DAILY 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
8. Furosemide 20 mg PO DAILY 
9. Gabapentin 600 mg PO TID 
10. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
11. Lisinopril 5 mg PO DAILY 
12. Montelukast 10 mg PO DAILY 
13. Omeprazole 20 mg PO BID 
14. QUEtiapine Fumarate 200 mg PO QHS 
15. Senna 8.6 mg PO BID:PRN constipation  
16. Simvastatin 40 mg PO QPM 
17. Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice daily Disp 
#*16 Tablet Refills:*0
18. PredniSONE 60 mg PO DAILY Duration: 5 Days 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*9 Tablet 
Refills:*0
19. Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN migraine  
Do not exceed 6 tablets/day 
20. Nortriptyline 10 mg PO QHS 
21. DME
Rolling walker
Dx: Asthma J45.909., Unsteady gait R26.81
Prognosis: good
Length of need: 13 months
22. Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN Cough Duration: 
5 Days 
RX *dextromethorphan-guaifenesin [Adult Cough Formula DM Max] 
200 mg-10 mg/5 mL 5 ml by mouth q 6 hours Refills:*0
23. MetFORMIN (Glucophage) 1000 mg PO BID 
24. Glargine 22 Units Breakfast
Humalog 10 Units Breakfast
Humalog 14 Units Lunch
Humalog 14 Units Dinner

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Community acquired pneumonia
Chest pain
Asthma exacerbation

Secondary diagnoses:
Chronic back pain
Anemia
Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

Why did I come to the hospital?
-You came to the hospital because of cough and back pain

What happened while I was in the hospital?
-We treated you with antibiotics for pneumonia and steroids to 
help with your lung inflammation

What should I do when I leave the hospital?
-Continue taking your antibiotics
-We have not made other changes to your medications so you can 
continue taking your medications as prescribed
-You should follow up with your primary care physician and your 
cardiologist.

Best,
Your ___ Team
 
Followup Instructions:
___